### PR TITLE
Fix simpNF linter warnings in Convolution/Compact

### PR DESCRIPTION
**Pull request by kim-em**
## Summary

This PR fixes two `simpNF` linter warnings in `LeanAPAP/Prereqs/Convolution/Compact.lean`.

## Changes

The linter reported that these simp lemmas had left-hand sides that auto-simplified during `simp`:

1. **`indicate_univ_cconv_indicate_univ`** (line 371)
   - Changed LHS from `𝟭 univ ∗ₙ 𝟭 univ` to `1 ∗ₙ 1`
   - The `indicate_univ` simp lemma simplifies `𝟭 Finset.univ` to `1`

2. **`indicate_univ_cdconv_mu_univ`** (line 376)
   - Changed LHS from `𝟭 univ ○ₙ 𝟭 univ` to `1 ○ₙ 1`
   - Same reason as above

Also removed unused `indicate_apply` argument from simp calls in both proofs.

## Test plan

- [x] Build completes successfully with no errors or warnings
- [x] Verified the theorems still work correctly

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: LeanAPAP/Prereqs/Convolution/Compact.lean [hunk 1]
```diff
@@ -368,13 +368,13 @@ end Field
 section Semifield
 variable [Semifield R] [CharZero R]
 
-@[simp] lemma indicate_univ_cconv_indicate_univ : 𝟭_[R] (univ : Finset G) ∗ₙ 𝟭 univ = 𝟭 univ := by
-  ext; simp [indicate_apply, cconv_eq_expect_add, *]
+@[simp] lemma indicate_univ_cconv_indicate_univ : (1 : G → R) ∗ₙ 1 = 1 := by
```
Comment (YaelDillies) [inline LeanAPAP/Prereqs/Convolution/Compact.lean]:
```suggestion
@[simp] lemma one_cconv_one : (1 : G → R) ∗ₙ 1 = 1 := by
```

File: LeanAPAP/Prereqs/Convolution/Compact.lean [hunk 2]
```diff
@@ -368,13 +368,13 @@ end Field
...
+  ext; simp [cconv_eq_expect_add, *]
 
 variable [StarRing R]
 
-@[simp] lemma indicate_univ_cdconv_mu_univ : 𝟭_[R] (univ : Finset G) ○ₙ 𝟭 univ = 𝟭 univ := by
-  ext; simp [indicate_apply, cdconv_eq_expect_add, *]
+@[simp] lemma indicate_univ_cdconv_mu_univ : (1 : G → R) ○ₙ 1 = 1 := by
```
Comment (YaelDillies) [inline LeanAPAP/Prereqs/Convolution/Compact.lean]:
```suggestion
@[simp] lemma one_cdconv_one : (1 : G → R) ○ₙ 1 = 1 := by
```

**Comment by kim-em** [comment]
Closing stale PR.
